US08431695B2
Preparation of N-{6-[4-Amino-7-(1-methanesulfonyl-piperidin-4-yl)-pyrrolo-[2,1-f][1,2,4]tria-zin-5-yl]-2-benzyl-2H-indazol-3-yl}-acetamide
To a suspension of 5-(3-Amino-2-benzyl-2H-indazol-6-yl)-7-(1-methanesulfonyl-piperidin-4-yl)-pyrrolo[2,1-f][1,2,4]triazin-4-ylamine (150 mg, 0.29 mmol) in DCE (2.9 mL) and pyridine (0.29 mL) was added acetyl chloride (20 μl, 0.38 mmol, 1.3 mmol), and the reaction mixture was stirred at rt under N2 for 18 h. The mixture was partitioned between EtOAc and water. The organic phase was washed with water and brine, dried over Na2SO4, filtered, and concentrated in vacuo. The crude was purified via preparative HPLC. The product containing fractions were collected, and the TFA from the eluent was removed via filtration through an acidic resin followed by washing with acetonitrile. The product was then eluted with 2M NH3 in MeOH. The MeOH was removed and the residue was crystallized from DCM-hexane to provide the title compound (14 mg, 9%) as a solid. 1H NMR (300 MHz, DMSO-d6) δ 10.34 (s, 1H), 7.91 (s, 1H), 7.58 (d, 1H), 7.51 (s, 1H), 7.35 to 7.22 (m, 5H), 7.14 (dd, 1H), 6.65 (s, 1H), 5.49 (s, 2H), 3.68 to 3.64 (m, 2H), 3.26 (dt, 1H), 2.92 to 2.86 (m, 5H), 2.16 to 2.07 (m, 5H), 1.77 to 1.73 (m, 2H); ES-MS m/z 559.4 [M+H]+, RT (min) 2.39.

reactant | 5-(3-Amino-2-benzyl-2H-indazol-6-yl)-7-(1-methanesulfonyl-piperidin-4-yl)-pyrrolo[2,1-f][1,2,4]triazin-4-ylamine | 0.29 mmol, 150 mg | NC=1N(N=C2C=C(C=CC12)C=1C=C(N2N=CN=C(C21)N)C2CCN(CC2)S(=O)(=O)C)CC2=CC=CC=C2 | C26H28N8O2S
reactant | acetyl chloride | 0.38 mmol, 20 μl | C(C)(=O)Cl | C2H3ClO
solvent | DCE | 2.9 mL | ClCCCl | C2H4Cl2
solvent | pyridine | 0.29 mL | N1=CC=CC=C1 | C5H5N
product | N-{6-[4-Amino-7-(1-methanesulfonyl-piperidin-4-yl)-pyrrolo-[2,1-f][1,2,4]tria-zin-5-yl]-2-benzyl-2H-indazol-3-yl}-acetamide | 14 mg, 9% | NC1=NC=NN2C1=C(C=C2C2CCN(CC2)S(=O)(=O)C)C=2C=CC1=C(N(N=C1C2)CC2=CC=CC=C2)NC(C)=O | C28H30N8O3S
